US06498169B1
Synthesis of 4-[N-(Indan-5-yl)-N-[4-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (143 mg) and 4-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a dihydrochloride.

reactant | 4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 143 mg | C1CCC2=CC(=CC=C12)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C29H35N3O3
reactant | 4-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(CCl)C=C1 | C16H17ClO3
product | 4-[N-(Indan-5-yl)-N-[4-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.C1CCC2=CC(=CC=C12)N(CC1=CC=C(C=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C45H51N3O6.2ClH/c1-49-40-24-35(25-41(50-2)44(40)53-5)33-12-10-30(11-13-33)29-48(38-15-14-32-8-7-9-34(32)23-38)37-17-20-47(21-18-37)28-31-16-19-46-39(22-31)36-26-42(51-3)45(54-6)43(27-36)52-4;;/h10-16,19,22-27,37H,7-9,17-18,20-21,28-29H2,1-6H3;2*1H
